US08486970B2
To a solution of 2.62 g of tert-butyl 1H-pyrrole-3-carboxylate and 7.96 g of N-(2-bromoethyl)phthalimide in DMF (100 ml) was added 10.2 g of cesium carbonate at room temperature, followed by stirring for 12 hours. The reaction solution was diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine and then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography using hexane/chloroform as an eluent solvent, and washed with diethyl ether to obtain 670 mg of tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindo1-2-yl)ethyl]-1H-pyrrole-3-carboxylate as a colorless solid.

reactant | tert-butyl 1H-pyrrole-3-carboxylate | 2.62 g | N1C=C(C=C1)C(=O)OC(C)(C)C | C9H13NO2
reactant | N-(2-bromoethyl)phthalimide | 7.96 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | cesium carbonate | 10.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindo1-2-yl)ethyl]-1H-pyrrole-3-carboxylate | 670 mg | O=C1N(C(C2=CC=CC=C12)=O)CCN1C=C(C=C1)C(=O)OC(C)(C)C | C19H20N2O4
